US05635527
In the same manner as in Example 1 (2), 5-cyano-2-benzofurancarboxylic acid (203 mg, 1.08 mmol) and t-butyl 3-(4-aminocyclohexyl)propionate (295 mg, 1.30 mmol) were condensed and purified by silica gel column chromatography (n-hexane/ethyl acetate=2/1) to give 165 mg of t-butyl 3-[4-[(5-cyano-2-benzofuranyl)carbonylamino]cyclohexyl]propionate as a colorless solid (38%).

reactant | 5-cyano-2-benzofurancarboxylic acid | 1.08 mmol, 203 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H5NO3
reactant | t-butyl 3-(4-aminocyclohexyl)propionate | 1.30 mmol, 295 mg | NC1CCC(CC1)CCC(=O)OC(C)(C)C | C13H25NO2
product | t-butyl 3-[4-[(5-cyano-2-benzofuranyl)carbonylamino]cyclohexyl]propionate | 165 mg, 38% | C(#N)C=1C=CC2=C(C=C(O2)C(=O)NC2CCC(CC2)CCC(=O)OC(C)(C)C)C1 | C23H28N2O4
